US08044069B2
tert-butyl 1-[3-(trifluoromethyl)benzyl]azetidin-3-ylcarbamate
To a solution of tert-butyl azetidin-3-ylcarbamate (0.34 g, 2 mmol) in dichloroethane was added 3-(trifluoromethyl)benzaldehyde (0.45 g, 2.6 mmol) and sodium triacetoxyborohydride (0.64 g, 3 mmol). The resultant mixture was stirred at room temperature for 16 hours, and then the mixture was diluted with dichloromethane and washed with aqueous NaHCO3 solution. The organic layer was separated, dried over MgSO4, and concentrated. The residue was purified by flash chromatography on silica gel eluting with 30-70% ethyl acetate/hexane to yield the title compound.

reactant | tert-butyl azetidin-3-ylcarbamate | 2 mmol, 0.34 g | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
reactant | 3-(trifluoromethyl)benzaldehyde | 2.6 mmol, 0.45 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | sodium triacetoxyborohydride | 3 mmol, 0.64 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-butyl 1-[3-(trifluoromethyl)benzyl]azetidin-3-ylcarbamate | FC(C=1C=C(CN2CC(C2)NC(OC(C)(C)C)=O)C=CC1)(F)F | C16H21F3N2O2
